US04559407
1 mmol of 2,5-dimethoxy-3,4,6-trimethylphenylmagnesium bromide in 2 ml of tetrahydrofuran was added dropwise at 0° C. while stirring to a solution of 300 mg (0.97 mmol) of (2R,3R,7R,11R)-2,3-epoxy-3,7,11,15-tetramethylhexadecanal in 10 ml of tetrahydrofuran. After completion of the dropwise addition, the mixture was stirred at room temperature for a further 3 hours. 20 ml of water weree then added and the mixture was extracted three times with 20 ml of ether each time. The combined organic phases were dried over sodium sulphate and concentrated on a rotary evaporator. The thus-obtained crude produce (502 mg) was chromatographed on silica gel with toluene/ethyl acetate (2:1 parts by volume) and there were obtained 448 mg(94%) of (1RS,2R,3R,7R, 11R)-1-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-3,7,11,15-tetramethylhexadecanol, [α]D20 =-0.66° (c=1.51% in chloroform).

reactant | 2,5-dimethoxy-3,4,6-trimethylphenylmagnesium bromide | 1 mmol | COC1=C(C(=C(C(=C1C)C)OC)C)[Mg]Br
reactant | (2R,3R,7R,11R)-2,3-epoxy-3,7,11,15-tetramethylhexadecanal | 0.97 mmol, 300 mg | O1[C@@H](C=O)[C@]1(CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)C | C20H38O2
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (1RS,2R,3R,7R, 11R)-1-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-3,7,11,15-tetramethylhexadecanol | 448 mg, 94% | COC1=C(C(=C(C(=C1C)C)OC)C)C([C@@H]1[C@](CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)(C)O1)O | C31H54O4
